US08557872B2
Step 1: Synthesis of N-methoxy-N-methyl-4-fluoro-2-n-butylamino-benzamide
To a solution of N-methoxy-N-methyl-2-amino-4-fluorobenzoic acid amide (0.35 g, 1.75 mmol), butyrylaldehyde (0.23 mL, 2.62 mmol), and AcOH (0.15 mL, 2.62 mmol) in dichloromethane (20 mL) was added sodium triacetoxyborohydride (0.74 g, 3.49 mmol) at 5° C. The mixture was stirred for 5 hours at the same temperature and overnight at room temperature. The reaction was quenched by adding water. The organic layer was washed with saturated aqueous NaHCO3 solution and brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to give the title compound quantitatively.

reactant | N-methoxy-N-methyl-2-amino-4-fluorobenzoic acid amide | 1.75 mmol, 0.35 g | CON(C(C1=C(C=C(C=C1)F)N)=O)C | C9H11FN2O2
reactant | AcOH | 2.62 mmol, 0.15 mL | CC(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 3.49 mmol, 0.74 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-methoxy-N-methyl-4-fluoro-2-n-butylamino-benzamide | CON(C(C1=C(C=C(C=C1)F)NCCCC)=O)C | C13H19FN2O2
